US06903075B1
Step B: 4-(2-nitrophenoxy)-(L)-phenylalanine methyl ester hydrochloride
N-Boc-4-(2-nitrophenoxy)-(L)-phenylalanine, methyl ester (600 mg) was stirred in a solution of 1N hydrochloric acid in ethyl acetate (10 mL) for 18 hours at room temperature. A precipitate formed, the solvent was removed by rotoevaporation, and co-evaporated with Et2O (2×). The solid was than suspended with ethyl acetate, filtered, washed with diethyl ether, and allowed to air dry. The title compound was recovered (490 mg) and used in the subsequent reaction without further purification.

reactant | N-Boc-4-(2-nitrophenoxy)-(L)-phenylalanine, methyl ester | 600 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC | C21H24N2O7
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-nitrophenoxy)-(L)-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OC1=C(C=CC=C1)[N+](=O)[O-])=O | InChI=1S/C16H16N2O5.ClH/c1-22-16(19)13(17)10-11-6-8-12(9-7-11)23-15-5-3-2-4-14(15)18(20)21;/h2-9,13H,10,17H2,1H3;1H/t13-;/m0./s1
